US07829560B2
Ethyl-4-[4-({4-[(3-fluoro-5-morpholin-4-ylbenzoyl)amino]-1-naphthyl}oxy)pyrimidin-2-yl]piperazine-1-carboxylate (Compound B329).
Compound is prepared from 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide and piperazine-1-carboxylic acid ethyl ester according to conditions described in general procedure C. 1HNMR (400 MHz, CDCl3) δ 1.27 (t, J=7.6 Hz, 3 H), 3.27 (s, 4 H), 3.44 (m, 4 H), 3.64 (s, 4 H), 3.89 (m, 4 H), 4.12-4.17 (m, 2 H), 6.07-6.09 (m, 1H), 6.78-6.81 (m, 1 H), 7.10 (d, J=8.0 Hz, 1 H), 7.31-7.35 (m, 2 H), 7.51-7.61 (m, 2 H), 7.92-8.01 (m, 2 H), 8.19-8.24 (m, 2 H).

reactant | 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCOCC1 | C26H23FN4O5S
reactant | piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCNCC1 | C7H14N2O2
product | Ethyl-4-[4-({4-[(3-fluoro-5-morpholin-4-ylbenzoyl)amino]-1-naphthyl}oxy)pyrimidin-2-yl]piperazine-1-carboxylate | C(C)OC(=O)N1CCN(CC1)C1=NC=CC(=N1)OC1=CC=C(C2=CC=CC=C12)NC(C1=CC(=CC(=C1)N1CCOCC1)F)=O | C32H33FN6O5
